US08530483B2
To a solution of 4-(text-butoxycarbonyl-methyl-amino)-benzoic acid (70 mg, 0.28 mmol) in CH2Cl2 (2 mL) was added 1-chloro-N,N-2-trimethylpropenylamine (98 μL, 0.74 mmol). Following formation of the resulting acid chloride, the reaction mixture was concentrated affording a residue that was dissolved in pyridine (2 mL) before 2,6-difluoro-pyridin-3-ylamine (30 mg, 0.23 mmol) was added in one portion. After an additional 30 minutes the reaction mixture was concentrated to dryness affording a residue to which was added DMF (2 mL) and K2CO3 (64 mg, 0.46 mmol). The resulting mixture was heated by microwave to 150° C. for 10 min, after which the resulting mixture was filtered, concentrated and purified by silica gel flash chromatography (0 to 100% EtOAc in hexanes) to afford [4-(5-fluoro-oxazolo[5,4-b]pyridine-2-yl)-phenyl]-methyl-amine (50 mg, 0.21 mmol, 89%). ES MS (M+H+)=244; 1H NMR (300 MHz, DMSO-d6): δ 8.24 (t, J=7.7 Hz, 1H); 7.89 (d, J=8.4 Hz, 2H); 7.18 (d, J=8.4 Hz, 1H); 6.68 (d, J=8.5 Hz, 3H); 2.76 (s, 3H); HRMS m/z 244.0883 (C13H10FN3O+H+ requires 244.0881).

reactant | 2,6-difluoro-pyridin-3-ylamine | 0.23 mmol, 30 mg | FC1=NC(=CC=C1N)F | C5H4F2N2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 0.46 mmol, 64 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | [4-(5-fluoro-oxazolo[5,4-b]pyridine-2-yl)-phenyl]-methyl-amine | 0.21 mmol, 50 mg, 89% | FC1=CC=C2C(=N1)OC(=N2)C2=CC=C(C=C2)NC | C13H10FN3O
